US05864039
4-Amino-5-chloro-N-((1-(5-cyclohexylaminopentyl)piperidin-4-yl)-methyl)-2-methoxybenzamide (1.1 g) as starting compound, acetaldehyde (0.15 ml) and sodium cyanoborohydride (0.33 g) were reacted and treated in the same manner as in Example 136 to give 1.0 g of 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-cyclohexylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-N-((1-(5-cyclohexylaminopentyl)piperidin-4-yl)-methyl)-2-methoxybenzamide | 1.1 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNC2CCCCC2)C=C1Cl)OC | C25H41ClN4O2
reactant | acetaldehyde | 0.15 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.33 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-cyclohexylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(C2CCCCC2)CC)C=C1Cl)OC | C27H45ClN4O2
